US06440995B1
2-Benzo[b]thiophen-2-yl-4-chloro-quinoline
The title compound, m. p. 142-145° C., MS: m/e=295 (M+), was prepared from 4-chloro-quinoline and 1-benzothiophene.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 1-benzothiophene | S1C=CC2=C1C=CC=C2 | C8H6S
product | 2-Benzo[b]thiophen-2-yl-4-chloro-quinoline | S1C2=C(C=C1C1=NC3=CC=CC=C3C(=C1)Cl)C=CC=C2 | C17H10ClNS
